US08314098B2
Synthesis of N-[2-(1-acetyl-piperidin-4-yl)-7-morpholin-4-yl-pyrazolo-[1,5-a]pyrimidin-5-yl]-N′-(3-methyl-benzylidene)-hydrazine (Compound 133)
There was suspended, in methylene chloride (2 mL), N-(3-methyl-benzylidene)-N′-(7-morpholin-4-yl-2-piperidin-4-yl-pyrazolo[1,5-a]pyrimidin-5-yl)-hydrazine (31.0 mg, 0.0739 mM) and then acetic acid anhydride (1 mL) was added to the suspension. After this reaction liquid was heated to 90° C. and stirred for 15 minutes, the solvent was distilled off, the resulting residue was diluted with a saturated aqueous solution of sodium bicarbonate and then the mixture was extracted with ethyl acetate. The resulting extracts were combined, dried over anhydrous sodium sulfate, the solvent was distilled off and the resulting solid was washed with diethyl ether to thus give the title compound (25.0 mg, yield: 73%).

reactant | N-(3-methyl-benzylidene)-N′-(7-morpholin-4-yl-2-piperidin-4-yl-pyrazolo[1,5-a]pyrimidin-5-yl)-hydrazine | 0.0739 mM, 31.0 mg | CC=1C=C(C=NNC2=NC=3N(C(=C2)N2CCOCC2)N=C(C3)C3CCNCC3)C=CC1 | C23H29N7O
reactant | acetic acid anhydride | 1 mL | C(C)(=O)OC(C)=O | C4H6O3
solvent | methylene chloride | 2 mL | C(Cl)Cl | CH2Cl2
product | N-[2-(1-acetyl-piperidin-4-yl)-7-morpholin-4-yl-pyrazolo-[1,5-a]pyrimidin-5-yl]-N′-(3-methyl-benzylidene)-hydrazine | 25.0 mg, yield: 73% | C(C)(=O)N1CCC(CC1)C1=NN2C(N=C(C=C2N2CCOCC2)NN=CC2=CC(=CC=C2)C)=C1 | C25H31N7O2
